US08791132B2
2-Allyl-8-methyl-5-(2-(pyridin-4-yl)vinyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (50 mg, 0.151 mmol) was dissolved in DCM (2 mL), which was degassed with nitrogen for 15 min. To this was added Pd(PPh3)4 (4 mg, 0.002 mmol) followed by 1,3-dimethyl barbituric acid (71 mg, 0.454 mmol). The reaction mixture was again degassed by nitrogen for 15 min. The resultant mixture was stirred at RT for 1 h. DCM was evaporated in vacuo. EtOAc (20 mL) was added to reaction mixture and was washed with saturated potassium carbonate solution (3×1 mL). The organic layer was dried over anhydrous sodium sulfate, evaporated in vacuo and purified by reverse phase HPLC to obtain 2 mg of 8-methyl-5-(2-(pyridin-4-yl)vinyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole. 1H NMR (CD3OD, Free base): δ (ppm): 8.45 (d, 2H), 8.0 (d, 1H), 7.7 (d, 1H), 7.58 (d, 2H), 7.3 (s, 1H), 7.19 (d, 1H), 6.8 (d, 1H), 4.29 (s, 2H), 3.42 (m, 2H), 3.2 (m, 2H), 2.4 (s, 3H).

reactant | 2-Allyl-8-methyl-5-(2-(pyridin-4-yl)vinyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.151 mmol, 50 mg | C(C=C)N1CC2=C(N(C=3C=CC(=CC23)C)C=CC2=CC=NC=C2)CC1 | C22H23N3
reactant | 1,3-dimethyl barbituric acid | 0.454 mmol, 71 mg | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.002 mmol, 4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-methyl-5-(2-(pyridin-4-yl)vinyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 2 mg | CC1=CC=2C3=C(N(C2C=C1)C=CC1=CC=NC=C1)CCNC3 | C19H19N3
